US06265440B1
5) Preparation of Dimethyl(3-(2-Tetrahydropyranyl)oxy-2-oxoheptyl)phosphonate
Prepared from methyl 2-(2-tetrahydropyranyl)oxycaproate and dimethyl methylphosphonate according to the known method. (Yield 48%).

reactant | methyl 2-(2-tetrahydropyranyl)oxycaproate | O1C(CCCC1)OC(C(=O)OC)CCCC | C12H22O4
reactant | dimethyl methylphosphonate | CP(OC)(OC)=O | C3H9O3P
product | Dimethyl(3-(2-Tetrahydropyranyl)oxy-2-oxoheptyl)phosphonate | COP(OC)(=O)CC(C(CCCC)OC1OCCCC1)=O | C14H27O6P
